US06110934
N-(1,2,3,4-Tetrahydroisoquinolin-5-yl)-5-chloro-2,4-dimethoxybenzamide
To a solution of 5-chloro-2,4-dimethoxy-N-[2-(tert-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinolin-5-yl]benzamide (1 g) in dichloromethane (30 ml) at 0° C. was added trifluoracetic acid (3 ml). The mixture was then stirred at room temperature for 3h before pouring into saturated aqueous sodium bicarbonate (100 ml) and extracting with dichloromethane. The organic phase was dried over sodium sulfate and concentrated in vacuo to afford the title compound as an off white solid (700 mg).

reactant | 5-chloro-2,4-dimethoxy-N-[2-(tert-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinolin-5-yl]benzamide | 1 g | ClC=1C(=CC(=C(C(=O)NC2=C3CCN(CC3=CC=C2)C(=O)OC(C)(C)C)C1)OC)OC | C23H27ClN2O5
reactant | trifluoracetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-(1,2,3,4-Tetrahydroisoquinolin-5-yl)-5-chloro-2,4-dimethoxybenzamide | C1NCCC2=C(C=CC=C12)NC(C1=C(C=C(C(=C1)Cl)OC)OC)=O | C18H19ClN2O3
